US04542132
40% Aqueous hydrofluoric acid (0.5 cm3) was added at room temperature to a stirred solution of trans-2-{2-[1-(6,7-dimethoxyquinazolin-4-yl)-3-t-butyldimethylsilyloxypiperid-4-yl]prop-1-yl}isothiazolidine-1,1-dioxide (diastereomer A; 0.64 g) in acetonitrile (7.0 cm3). After stirring for 16 hours aqueous saturated sodium carbonate solution (5 cm3) was added and the residue was partitioned between water (10 cm3) and chloroform (60 cm3). The dried (MgSO4) organic layer was evaporated and the residue was chromatographed on silica ("Merck" 60.9385) eluting with chloroform to afford a foam which crystallised from ethyl acetate to give trans-2-{2-(1-[6,7-dimethoxy quinazolin-4-yl]-3-hydroxypiperid-4-yl)prop-1-yl}isothiazolidine-1,1-dioxide as microcrystals (diastereomer A) m.p. 173°-174° (0.394 g).

reactant | hydrofluoric acid | 0.5 cm3 | F | FH
reactant | trans-2-{2-[1-(6,7-dimethoxyquinazolin-4-yl)-3-t-butyldimethylsilyloxypiperid-4-yl]prop-1-yl}isothiazolidine-1,1-dioxide | COC=1C=C2C(=NC=NC2=CC1OC)N1C[C@H]([C@@H](CC1)C(CN1S(CCC1)(=O)=O)C)O[Si](C)(C)C(C)(C)C | C27H44N4O5SSi
reactant | sodium carbonate | 5 cm3 | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 7.0 cm3 | C(C)#N | C2H3N
product | trans-2-{2-(1-[6,7-dimethoxy quinazolin-4-yl]-3-hydroxypiperid-4-yl)prop-1-yl}isothiazolidine-1,1-dioxide | COC=1C=C2C(=NC=NC2=CC1OC)N1C[C@H]([C@@H](CC1)C(CN1S(CCC1)(=O)=O)C)O | C21H30N4O5S
